* Sky130 fully differential NMOS-input telescopic-cascode OTA
* 50 uA into iref is the only external bias; all rails generated internally.
.subckt telescopic_cascode_ota vss iref vdd vinn vinp vocm voutn voutp

* --- NMOS bias mirror reference (iref is the NMOS gate rail) ---
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=48 nf=4

* --- Telescopic signal path ---
XTAIL tail iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=163.2 nf=12
XINP a1 vinp tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=81.6 nf=6
XINN a2 vinn tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=81.6 nf=6
XNCP voutn vcn a1 vss sky130_fd_pr__nfet_01v8 l=0.7 w=36.4 nf=2
XNCN voutp vcn a2 vss sky130_fd_pr__nfet_01v8 l=0.7 w=36.4 nf=2
XPCN voutn vbpc pn pn sky130_fd_pr__pfet_01v8 l=0.35 w=70.72 nf=4
XPCP voutp vbpc pp pp sky130_fd_pr__pfet_01v8 l=0.35 w=70.72 nf=4
XPTN pn vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=130.56 nf=8
XPTP pp vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=130.56 nf=8

* --- Input-tracking replica: srep ~ tail node voltage ---
XR1 vdd vocm srep vss sky130_fd_pr__nfet_01v8 l=0.5 w=9.6 nf=1
XT1 srep iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=19.2 nf=2

* --- NMOS cascode gate rail: vcn = srep + I*R1 + Vgs(matched to ncasc) ---
XPB2 vcn vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=16 nf=1
XD1 vcn vcn x1 vss sky130_fd_pr__nfet_01v8 l=0.7 w=4.28 nf=1
R1 x1 srep 20k

* --- PMOS cascode gate rail: vbpc = vdd - I*R2 - Vsg(matched to pcasc) ---
RB2 vdd x2 24k
XDP1 vbpc vbpc x2 x2 sky130_fd_pr__pfet_01v8 l=0.35 w=8.32 nf=1
XT4 vbpc iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=9.6 nf=1

* --- PMOS mirror master rail ---
XPM vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=19.2 nf=1
XT5 vbp iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=11.52 nf=1

* --- Common-mode sense ---
RSP voutp vcm_sense 4.7Meg
RSN voutn vcm_sense 4.7Meg
CSP voutp vcm_sense 150f
CSN voutn vcm_sense 150f

* --- CMFB error amplifier (load density-matched to XPTN/XPTP) ---
XCMS dg vcm_sense cmt vss sky130_fd_pr__nfet_01v8 l=0.5 w=4.8 nf=1
XCMR vctrl vocm cmt vss sky130_fd_pr__nfet_01v8 l=0.5 w=4.8 nf=1
XCMT cmt iref vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=9.6 nf=1
XCML dg dg vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=7.68 nf=1
XCMLO vctrl dg vdd vdd sky130_fd_pr__pfet_01v8 l=0.7 w=7.68 nf=1

* --- CM loop Miller compensation with series zero ---
CCP vctrl zp 390f
RZP zp voutp 3k
CCN vctrl zn 390f
RZN zn voutn 3k

.ends telescopic_cascode_ota
