.subckt telescopic_cascode_ota vss iref vdd vinn vinp vocm voutn voutp
XKEEP iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=1 nf=1
ROUTP voutp vss 1k
ROUTN voutn vss 1k
.ends telescopic_cascode_ota
